US05104888
5-[4-(6-Hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione (Step A5)
A mixture of 9.6 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 51), 1.8 g of thiourea and 11 ml of sulfolane was heated for 3.5 hours at 120° C. under a nitrogen stream. 100 ml of ethylene glycol monomethyl ether and 70 ml of 10% w/v aqueous hydrochloric acid were then added to the reaction mixture, after which it was heated under reflux for 12 hours. The product was then purified as described in Example 27, to give the title compound. The melting point and nuclear magnetic resonance spectrum of this compound accorded with those of the compound obtained in Example 27(b).

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 9.6 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C27H33ClO6
reactant | thiourea | 1.8 g | NC(=S)N | CH4N2S
reactant | sulfolane | 11 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol monomethyl ether | 100 ml | COCCO | C3H8O2
product | 5-[4-(6-Hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C24H27NO5S
